US04014872
To a solution of (3R,6R,7R)-3-hydroxy-7-phenylacetamidocepham (1.4 g., 4.78 mmole) in dimethylsulphoxide (25 ml.) was added acetic anhydride (5 ml.). The reaction mixture was kept at 22° for 16 hours, diluted with ethyl acetate, and washed with water and sodium bicarbonate solution. Removal of the solvent gave a crystalline solid (1.23 g.) which was dissolved in benzene:ethyl acetate: chloroform = 2:2:1 (10 ml.) and adsorbed on a 10 × 2.5 cm column of silica gel. Elution with the same solvent mixture gave (6R,7R)-3-oxo-7-phenylacetamidocepham (0.33 g., 23%), as plates from isopropyl alcohol, m.p. 183.4° (Mettler), [α]D22 + 472.5° (c, 1.0, N,N-dimethylformamide), λmaxEtOH 250, 257, 263 nm (ε 280, 280, 190), νmaxnujol 3287 (NH), 1764 (β-lactam), 1712 (ketone), and 1650 and 1524 cm-1 (CONH), NMR (d6 -DMSO, τ) 0.85 (d, J 9 Hz, NH), 2.67 (C6H5), 4.61 (dd, J 4.5 and 9 Hz, 7-H), 4.86 (d, J 4 Hz, 6-H), 6.60 and 6.1 (q, J 19 Hz, 2-CH2), 6.10 and 6.86 (q, J 15 Hz, 4-CH2), 6.39 (Ph.CH2). (Found: C, 57.4; H, 4.9; N, 9.6; S, 10.9. C14H14N2O3S requires C, 57.9; H, 4.9; N, 9.6; S, 11.0%).

reactant | (3R,6R,7R)-3-hydroxy-7-phenylacetamidocepham | 4.78 mmole, 1.4 g | O[C@H]1CS[C@H]2N(C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C14H16N2O3S
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylsulphoxide | 25 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (6R,7R)-3-oxo-7-phenylacetamidocepham | 0.33 g, 23% | O=C1CS[C@H]2N(C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C14H14N2O3S
